US05073563
3,4-Dimethyl-7-(2-methyl-1,3,4-thiadiazol-5-yl)-methoxycoumarin
A mixture of 5.0 g of 7-hydroxy-3,4-dimethylcoumarin, 3.9 g of 2-chloromethyl-5-methyl-1,3,4-thiadiazole, 3.5 g of K2CO3 and 100 ml of acetone was refluxed for 20 hours and evaporated down, and the residue was partitioned in H2O/methylene chloride. After the undissolved constituents had been separated off, the organic phase was washed once with 1N NaOH and then with H2O, dried over Na2SO4 and evaporated down, and the residue was recrystallized from methanol and dried.

reactant | 7-hydroxy-3,4-dimethylcoumarin | 5.0 g | OC1=CC=C2C(=C(C(OC2=C1)=O)C)C | C11H10O3
reactant | 2-chloromethyl-5-methyl-1,3,4-thiadiazole | 3.9 g | ClCC=1SC(=NN1)C | C4H5ClN2S
reactant | K2CO3 | 3.5 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 3,4-Dimethyl-7-(2-methyl-1,3,4-thiadiazol-5-yl)-methoxycoumarin | CC=1C(OC2=CC(=CC(=C2C1C)OC)C1=NN=C(S1)C)=O | C15H14N2O3S
